US08729263B2
To a microwave vial was added (1-(4-bromo-3-methoxyphenyl)-1H-pyrazol-4-yl)methanol (400 mg, 1.41 mmol), bis(pinacolato)diboron (538 mg, 2.12 mmol), potassium acetate (415 mg, 4.24 mmol), PdCl2(dppf) (103 mg, 0.14 mmol), and dppf (78 mg, 0.14 mmol), followed by addition of 1,4-dioxane (6 mL). The reaction mixture was purged with N2 and stirred under an N2 atmosphere at 90° C. overnight. The reaction mixture was filtered through a disposable filter funnel and concentrated in vacuo. Purification by column chromotography (10% to 60% EtOAc in heptane) afforded (1-(3-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-pyrazol-4-yl)methanol (300 mg, MS: 331.2 [M+H+].).

reactant | (1-(4-bromo-3-methoxyphenyl)-1H-pyrazol-4-yl)methanol | 1.41 mmol, 400 mg | BrC1=C(C=C(C=C1)N1N=CC(=C1)CO)OC | C11H11BrN2O2
reactant | bis(pinacolato)diboron | 2.12 mmol, 538 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 4.24 mmol, 415 mg | C(C)(=O)[O-].[K+]
catalyst | PdCl2(dppf) | 0.14 mmol, 103 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | dppf | 0.14 mmol, 78 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | (1-(3-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-pyrazol-4-yl)methanol | 300 mg | COC=1C=C(C=CC1B1OC(C(O1)(C)C)(C)C)N1N=CC(=C1)CO | C17H23BN2O4
